US08426438B2
Step 2: Preparation of 5-(biphenyl-4-ylmethyl)-2-(2-fluorophenyl)-5,6,7,8-tetrahydrocyclopenta[b]pyrazolo[3,4-d]pyridine-3(2H)-one
Ethyl 1-(biphenyl-4-ylmethyl)-4-thioxo-4,5,6,7-tetrahydro-1H-cyclopenta[b]pyridine-3-carboxylate (0.30 g, 0.77 mmol) was suspended in ethanol (10 mL) and treated with 2-fluorophenylhydrazine hydrochloride (0.38 g, 2.3 mmol, 3 equiv) and potassium carbonate (0.64 g, 4.6 mmol, 6 equiv). The mixture was placed into a preheated oil bath at 80° C. for 24 hours, cooled to ambient temperature and concentrated in vacuo. The residue was treated with water (20 mL) and extracted with ethyl acetate (2×50 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography (100:0 to 90:10; chloroform:methanol), providing the titled compound: 1H-NMR (400 MHz, CDCl3) δ 8.29 (1H, s), 7.61-7.56 (5H, m), 7.47-7.44 (2H, m), 7.40-7.30 (2H, m), 7.21-7.19 (2H, m), 5.20 (2H, s), 3.08 (2H, t, J=7.5 Hz), 2.94 (2H, t, J=7.5 Hz), 2.23 (2H, quin, J=7.5 Hz) ppm; low resolution mass spectrometry (ES+) m/z 436.1 [(M+H)+; calculated for C28H23FN3O: 436.2].

reactant | Ethyl 1-(biphenyl-4-ylmethyl)-4-thioxo-4,5,6,7-tetrahydro-1H-cyclopenta[b]pyridine-3-carboxylate | 0.77 mmol, 0.30 g | C1(=CC=C(C=C1)CN1C2=C(C(C(=C1)C(=O)OCC)=S)CCC2)C2=CC=CC=C2 | C24H23NO2S
reactant | 2-fluorophenylhydrazine hydrochloride | 2.3 mmol, 0.38 g, 3 equiv | Cl.FC1=C(C=CC=C1)NN
reactant | potassium carbonate | 4.6 mmol, 0.64 g, 6 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(biphenyl-4-ylmethyl)-2-(2-fluorophenyl)-5,6,7,8-tetrahydrocyclopenta[b]pyrazolo[3,4-d]pyridine-3(2H)-one | C1(=CC=C(C=C1)CN1C2=C(C=3C(=C1)C(N(N3)C3=C(C=CC=C3)F)=O)CCC2)C2=CC=CC=C2 | C28H22FN3O
